3
L1 1 0 1E-5
L2 2 0 1.6E-4
C0103 1 3 1E-8
C0200 2 0 6.25E-10
V0300 3 0 PULSE 0 10000 0 0 0 1 2 1
K12 L1 L2 1.80327868852459E-1
.TRAN 0.5E-4 1E-8 BE 10
